US05939451
0.47 g (0.0013 mol) of 4-tert-butyl-N-(6-chloro-2-methyl-amino-pyrimidin-4-yl)-benzenesulfonamide was dissolved in 10 ml of ethanol, treated with 1.3 g (0.019 mol) of methylamine hydrochloride and 4.7 ml (0.034 mol) of triethylamine and stirred in an autoclave at 140° C. for 18 hours. The mixture was freed completely from solvent, the residue was partitioned in ethyl acetate/water and the insoluble constituents were filtered off under suction. The filtered cake was recrystallized in methanol/diethyl ether. There was obtained 0.15 g (33%) of N-(2,6-bis-methylamino-pyrimidin-4-yl)-4-tert-butyl-benzenesulfonamide as white crystals; m.p. 316-318° C.

reactant | 4-tert-butyl-N-(6-chloro-2-methyl-amino-pyrimidin-4-yl)-benzenesulfonamide | 0.0013 mol, 0.47 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1N)Cl)C | C15H19ClN4O2S
reactant | methylamine hydrochloride | 0.019 mol, 1.3 g | Cl.CN
reactant | triethylamine | 0.034 mol, 4.7 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-(2,6-bis-methylamino-pyrimidin-4-yl)-4-tert-butyl-benzenesulfonamide | 0.15 g, 33% | CNC1=NC(=CC(=N1)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)NC | C16H23N5O2S
